US07667049B2
Synthesis of benzyl (3R,4S)-3-cyclopropylaminomethyl-4-hydroxypyrrolidine-1-carboxylate hydrochloride
42.0 mL of a 10% hydrogen chloride-methanol solution was added dropwise to a solution of benzyl(3R,4S)-3-cyclopropylaminomethyl-4-hydroxypyrrolidine-1-carboxylate (13.9 g, equivalent to 46.4 mmol) in 195 mL of ethyl acetate under stirring at room temperature (crystallization occurred during the addition). Once crystallization took place, the mixture was stirred for 15 minutes at an internal temperature of 20 to 22° C. Subsequently, 390 mL of diisopropyl ether were added dropwise and the mixture was further stirred for 30 minutes. The resulting crystals were collected by filtration and washed with 28 mL of diisopropyl ether. The washed product was dried for 30 minutes by air-blowing and further dried at 60° C. for 2 hours under reduced pressure to give 13.5 g of the title compound as a colorless crystalline powder (92% yield in the 2 steps).

reactant | hydrogen chloride methanol | Cl.CO
reactant | benzyl(3R,4S)-3-cyclopropylaminomethyl-4-hydroxypyrrolidine-1-carboxylate | 46.4 mmol, 13.9 g | C1(CC1)NC[C@@H]1CN(C[C@H]1O)C(=O)OCC1=CC=CC=C1 | C16H22N2O3
solvent | ethyl acetate | 195 mL | C(C)(=O)OCC | C4H8O2
product | benzyl (3R,4S)-3-cyclopropylaminomethyl-4-hydroxypyrrolidine-1-carboxylate hydrochloride | 13.5 g, 92% yield | Cl.C1(CC1)NC[C@@H]1CN(C[C@H]1O)C(=O)OCC1=CC=CC=C1 | InChI=1S/C16H22N2O3.ClH/c19-15-10-18(9-13(15)8-17-14-6-7-14)16(20)21-11-12-4-2-1-3-5-12;/h1-5,13-15,17,19H,6-11H2;1H/t13-,15-;/m1./s1
